US09034900B2
Step 4: N-[6-(cyclopropylmethoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl]ethanesulfonamide
A mixture of N-[5-bromo-6-(cyclopropylmethoxy)pyridin-3-yl]ethanesulfonamide (150 mg, 0.45 mmol), 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (285 mg, 1.13 mmol), KOAc (132 mg, 1.35 mmol), and Pd(dppf)2(Cl)2 (33 mg, 10%) was suspended in anhydrous dioxane (5 mL). The stirred reaction mixture was capped and purged with nitrogen for 5 min using an oil bubbler as an outlet. After the nitrogen inlet and outlet were removed, the capped vial was stirred at 70° C. for 3 h. After cooling to rt, the reaction mixture was filtered through a short plug of celite; the celite plug was washed with EtOAc. The filtrate was treated with water and separated; after the aqueous layer was washed with EtOAC (3×25 mL), the combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford a dark tan residue. The residue was purified by silica gel column chromatography using a gradient of 5 to 70% EtOAc in hexanes to afford the title compound (112 mg, 65%). LCMS (M+H)+=383.

reactant | N-[5-bromo-6-(cyclopropylmethoxy)pyridin-3-yl]ethanesulfonamide | 0.45 mmol, 150 mg | BrC=1C=C(C=NC1OCC1CC1)NS(=O)(=O)CC | C11H15BrN2O3S
reactant | 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 1.13 mmol, 285 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 1.35 mmol, 132 mg | CC(=O)[O-].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-[6-(cyclopropylmethoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl]ethanesulfonamide | 112 mg, 65% | C1(CC1)COC1=C(C=C(C=N1)NS(=O)(=O)CC)B1OC(C(O1)(C)C)(C)C | C17H27BN2O5S
